US07345178B2
A mixture of 2-(4-nitrophenyl)oxazolo[5,4-c]pyridine (610 mg, 2.5 mmol), NH4Cl (1.2 g, 22.4 mmol), iron powder (0.76 g, 13.6 mmol), H2O (13 mL) and methanol (51 mL) was heated to reflux for 6 h under N2. The mixture was concentrated in vacuo and purified by chromatography on silica gel (eluted with EA/PE=3:1) to give 4-(oxazolo[5,4-c]pyridin-2-yl)benzenamine as light brown powder (340 mg, yield 64%). 1H NMR (400 MHz, DMSO-d6) δ:8.95 (1H, s); 8.46 (1H, d, J=5.2); 7.92 (2H, d, J=8.8); 7.69 (1H,d, J=5.6), 6.71 (2H,d, J=8.8), 6.19 (2H, s); MS(ESI) calcd for C12H9N3O (m/z): 211, found: 212 [M+H]+.

reactant | 2-(4-nitrophenyl)oxazolo[5,4-c]pyridine | 2.5 mmol, 610 mg | [N+](=O)([O-])C1=CC=C(C=C1)C=1OC=2C=NC=CC2N1 | C12H7N3O3
reactant | NH4Cl | 22.4 mmol, 1.2 g | [NH4+].[Cl-]
reactant | H2O | 13 mL | O | H2O
catalyst | iron | 13.6 mmol, 0.76 g | [Fe] | Fe
solvent | methanol | 51 mL | CO | CH4O
product | 4-(oxazolo[5,4-c]pyridin-2-yl)benzenamine | 340 mg, yield 64% | N1=C(OC=2C=NC=CC21)C2=CC=C(C=C2)N | C12H9N3O
